US08466197B2
BnBr (1.75 mL, 14.631 mmol) was added to a solution of salicylic acid (2.0 g, 14.625 mmol) in TBAF (17.5 mL, 1 M solution in THF) and the reaction mixture was stirred at r.t. overnight (16 h). The organic layer was poured into H2O (100 mL) and extracted with EtOAc (70 mL). It was dried over Na2SO4 (anhydrous), filtered and concentrated. The crude residue was flash chromatographed on SiO2 (2% EtOAc/hexanes) to furnish 2.53 g of benzyl 2-hydroxybenzoate (colourless oil, yield: 76%).

reactant | BnBr | 14.631 mmol, 1.75 mL | C1=CC=C(C=C1)CBr | C7H7Br
reactant | salicylic acid | 14.625 mmol, 2.0 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | H2O | 100 mL | O | H2O
solvent | TBAF | 1 M, 17.5 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | benzyl 2-hydroxybenzoate | 2.53 g, yield: 76% | OC1=C(C(=O)OCC2=CC=CC=C2)C=CC=C1 | C14H12O3
